US09079889B2
To a solution of (+/−)-4-(5-methylcyclohexa-1,3-dienyl)-3-nitropyridine (1.0 equiv.) in DCM (0.1M) at 0° C. was added m-CPBA (1.1 equiv.) and the reaction was allowed to warm to room temperature. After 3 hours, the mixture was quenched with saturated NaHCO3, extracted with DCM, and the organic phase was dried with sodium sulfate, filtered, and concentrated to give a yellow oil. The crude was dissolved in ethanol and water (3:1, 0.1 M), and sodium azide (2.0 equiv.) and ammonium chloride (2.0 equiv.) were added. The reaction was stirred for 4 hours, then concentrated in vacuo. To the crude was added ethyl acetate and water, the organic phase was washed with brine, dried with sodium sulfate, filtered, and concentrated. The crude material was purified via silica gel column chromatography eluting with ethyl acetate and hexanes (1:1) to afford (+/−)-2-azido-6-methyl-4-(3-nitropyridin-4-yl)cyclohex-3-enol as an oil in 49% yield. LC/MS=276.1 (M+H), Rt=0.71 min.

reactant | (+/−)-4-(5-methylcyclohexa-1,3-dienyl)-3-nitropyridine | 1.0 equiv. | CC1C=CC=C(C1)C1=C(C=NC=C1)[N+](=O)[O-] | C12H12N2O2
reactant | m-CPBA | 1.1 equiv. | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | sodium azide | 2.0 equiv. | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 2.0 equiv. | [Cl-].[NH4+]
solvent | DCM | 0.1M | C(Cl)Cl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | water | 0.1 M | O | H2O
product | (+/−)-2-azido-6-methyl-4-(3-nitropyridin-4-yl)cyclohex-3-enol | 49% yield | N(=[N+]=[N-])C1C(C(CC(=C1)C1=C(C=NC=C1)[N+](=O)[O-])C)O | C12H13N5O3
